US07196108B2
The intermediate 3-(5-hydroxymethyl-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl)-4-trifluoromethoxy-benzaldehyde was prepared in a similar manner to example 1a using [3,3-dimethyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-5-yl]-methanol and 3-bromo-4-trifluoromethoxy benzaldehyde. 59% yield. 1H-NMR (300 MHz, CDCl3): 1.39 (s, 6H), 1.71 (m, 1H), 4.26 (s, 2H), 4.68 (s, 2H), 7.14 (d, J=2.3 Hz, 1H), 7.21 (d, J=1.5 Hz, 1H), 7.49 (dd, J1=8.5 Hz, J2=1.5 Hz, 1H), 7.91 (dd, J1=8.5 Hz, J2=2.1 Hz, 1H), 8.01 (d, J=2.3 Hz, 1H), 10.03 (s, 1H).

reactant | [3,3-dimethyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-5-yl]-methanol | CC1(COC2=C1C=C(C=C2B2OC(C(O2)(C)C)(C)C)CO)C | C17H25BO4
reactant | 3-bromo-4-trifluoromethoxy benzaldehyde | BrC=1C=C(C=O)C=CC1OC(F)(F)F | C8H4BrF3O2
product | 3-(5-hydroxymethyl-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl)-4-trifluoromethoxy-benzaldehyde | 59% yield | OCC=1C=C(C2=C(C(CO2)(C)C)C1)C=1C=C(C=O)C=CC1OC(F)(F)F | C19H17F3O4
